US06002009
4-Amino-5-chloro-2-methoxy-benzoic acid (piperidin-4-yl)methyl ester
1,1-carbonyldiimidazole (0.8 g., 0.005 mol) was added to a solution of 4-amino-5-chloro-2-methoxy-benzoic acid (1 g, 5 mmol) in THF (20 ml) and the reaction mixture was stirred at room temperature for about 30 minutes. The solvent was evaporated and the residue was taken up in H2O and extracted into ethyl acetate (3×20 ml). The organic phases were collected, dried and evaporated to dryness. The obtained solid residue was dissolved in THF (10 ml) and dropped into a solution of 1-benzylpiperidin-4-yl-methanol [J. Med. Chem. (1992), 35, 4344], (1 g, 5 mmol) in THF (10 ml) and butyllithium (1.6 M in hexane; 3 ml), maintained at 0° C. The reaction mixture was further stirred at room temperature for 1 hour. The solvent was evaporated and the residue was taken up into H2O and extracted into ethyl acetate. The organic extracts were dried and evaporated to give the desired product as a pale yellow oil, (1.63 g).

reactant | 4-amino-5-chloro-2-methoxy-benzoic acid | 5 mmol, 1 g | NC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
reactant | 1-benzylpiperidin-4-yl-methanol | 5 mmol, 1 g | C(C1=CC=CC=C1)N1CCC(CC1)CO | C13H19NO
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | butyllithium | 1.6 M, 3 ml | C(CCC)[Li]
product | 4-Amino-5-chloro-2-methoxy-benzoic acid (piperidin-4-yl)methyl ester | 1.63 g | N1CCC(CC1)COC(C1=C(C=C(C(=C1)Cl)N)OC)=O | C14H19ClN2O3
